* C:\Users\Service\Documents\GitHub\DMXRGB\PCB_SMD\dmx_rgb.cir

* EESchema Netlist Version 1.1 (Spice format) creation date: 27.01.2018 08:01:35

* To exclude a component from the Spice Netlist add [Spice_Netlist_Enabled] user FIELD set to: N
* To reorder the component spice node sequence add [Spice_Node_Sequence] user FIELD and define sequence: 2,1,0

* Sheet Name: /
Y1  Net-_C1-Pad1_ Net-_C2-Pad1_ Crystal		
C1  Net-_C1-Pad1_ GND C		
C2  Net-_C2-Pad1_ GND C		
C3  /RESET GND C		
C4  VCC GND C		
R3  VCC /RESET R		
C8  VCC GND C		
R6  GND /PWM1 R		
R7  GND /PWM2 R		
R8  GND /PWM3 R		
Q1  /PWM1 Net-_J5-Pad2_ GND Q_NMOS_GDS		
Q2  /PWM2 Net-_J5-Pad3_ GND Q_NMOS_GDS		
Q3  /PWM3 Net-_J5-Pad4_ GND Q_NMOS_GDS		
J1  Net-_D1-Pad4_ Net-_D1-Pad2_ CONN_01X02		
J4  Net-_J4-Pad1_ Net-_J4-Pad2_ GND CONN_01X03		
J6  +12V Net-_J5-Pad2_ Net-_J5-Pad3_ Net-_J5-Pad4_ CONN_01X04		
J5  +12V Net-_J5-Pad2_ Net-_J5-Pad3_ Net-_J5-Pad4_ CONN_01X04		
C5  +12V GND CP		
C6  +12V GND CP		
C7  VCC GND C		
R4  VCC Net-_J2-Pad4_ R		
R5  VCC Net-_J2-Pad6_ R		
R2  Net-_J2-Pad3_ VCC R		
R1  Net-_J2-Pad5_ VCC R		
U1  /RESET /RXD /TXD Net-_C1-Pad1_ Net-_C2-Pad1_ /DIR ? ? ? GND ? ? ? /PWM1 /PWM2 /PWM3 /MOSI/SDA /MISO /SCL/SCK VCC ATTINY2313-20PU		
D1  +12V Net-_D1-Pad2_ GND Net-_D1-Pad4_ D_Bridge_+A-A		
U2  +12V GND VCC L7805		
J2  /TXD VCC Net-_J2-Pad3_ Net-_J2-Pad4_ Net-_J2-Pad5_ Net-_J2-Pad6_ GND /RXD Conn_02x04_Odd_Even		
J3  /MISO VCC /SCL/SCK /MOSI/SDA /RESET GND Conn_02x03_Odd_Even		
U3  /RXD /DIR /DIR /TXD GND Net-_J4-Pad2_ Net-_J4-Pad1_ VCC MAX485E		

.end
